US07211573B2
To a solution of 1.03 g (18 mmol) potassium hydroxide in 15 ml methanol were added 4.00 g (18 mmol) (1,3-dioxolan-2-ylmethyl)propanedioic acid dimethyl ester. After stirring overnight at 85° C. the solvent was distilled off. The residue was extracted with water/ethylacetate. The aqueous phase was then acidified with concentrated hydrochloric acid. Extraction with ethylacetate gave 2.11 g (56%) 2-[1,3]dioxolan-2-ylmethyl-malonic acid monomethyl ester as light yellow oil, 1H-NMR (ppm, CDCl3) δ 2.38–2.42 (m, 2H), 3.65 (t, 1H, J=6.9 Hz), 3.77 (s, 3H), 3.79–3.97 (m, 4H), 5.03 (t, 1H, J=3.6 Hz).

reactant | potassium hydroxide | 18 mmol, 1.03 g | [OH-].[K+]
reactant | (1,3-dioxolan-2-ylmethyl)propanedioic acid dimethyl ester | 18 mmol, 4.00 g | COC(C(C(=O)OC)CC1OCCO1)=O | C9H14O6
solvent | methanol | 15 ml | CO | CH4O
product | 2-[1,3]dioxolan-2-ylmethyl-malonic acid monomethyl ester | 2.11 g, 56% | COC(C(C(=O)O)CC1OCCO1)=O | C8H12O6
